US08609710B2
[Step 1] [1-(4-Ethylcyclohexyl)-1H-imidazol-4-yl]methanol
Ethyl 3-(dimethylamino)-2-isocyanoacrylate (2.00 g) was dissolved in 4-ethylcyclohexylamine (3.37 g), and the solution was stirred at 70° C. for 4.5 hours. To the reaction solution, saturated aqueous ammonium chloride was added, and organic matter was extracted with ethyl acetate. The organic layer was dried over anhydrous sodium sulfate and filtered, and the solvent was distilled off under reduced pressure to obtain a crude product. Lithium aluminum hydride (92%, 0.490 g) was suspended in tetrahydrofuran (12 mL). The produced crude product was dissolved in tetrahydrofuran (12 mL), and this solution was slowly added dropwise to the suspension at 0° C. After stirring at 0° C. for 30 minutes, the reaction solution was diluted with diethyl ether, and saturated aqueous sodium sulfate was added thereto. After stirring at room temperature for 1 hour, the formed inorganic salt was removed by filtration through celite. The filtrate was concentrated under reduced pressure to obtain a crude product. This crude product was purified by silica gel column chromatography (eluting solvent: methylene chloride-methylene chloride/methanol=9/1) to obtain the title compound (1.35 g, diastereomeric mixture, trans:cis=4:1).

reactant | Ethyl 3-(dimethylamino)-2-isocyanoacrylate | 2.00 g | CN(C=C(C(=O)OCC)[N+]#[C-])C | C8H12N2O2
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | Lithium aluminum hydride | 0.490 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 4-ethylcyclohexylamine | 3.37 g | C(C)C1CCC(CC1)N | C8H17N
solvent | tetrahydrofuran | 12 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 12 mL | O1CCCC1 | C4H8O
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | sodium sulfate | S(=O)(=O)([O-])[O-].[Na+].[Na+]
product | [1-(4-Ethylcyclohexyl)-1H-imidazol-4-yl]methanol | 1.35 g | C(C)C1CCC(CC1)N1C=NC(=C1)CO | C12H20N2O
